** sch_path: /home/designer/shared/Training/GROTDC/Counter7_MAXI/Counter_FA_7bits.sch
.subckt Counter_FA_7bits S[6] S[5] S[4] S[3] S[2] S[1] S[0] A[6] A[5] A[4] A[3] A[2] A[1] A[0] VDD COUT B[6] B[5] B[4] B[3] B[2]
+ B[1] B[0] VSS CIN
*.PININFO VDD:B VSS:B A[6:0]:I B[6:0]:I CIN:I S[6:0]:O COUT:O
x6 A[0] VDD B[0] S[0] VSS CIN net1 FA
x1 A[1] VDD B[1] S[1] VSS net1 net2 FA
x2 A[2] VDD B[2] S[2] VSS net2 net3 FA
x3 A[3] VDD B[3] S[3] VSS net3 net4 FA
x4 A[4] VDD B[4] S[4] VSS net4 net5 FA
x5 A[5] VDD B[5] S[5] VSS net5 net6 FA
x7 A[6] VDD B[6] S[6] VSS net6 COUT FA
.ends

* expanding   symbol:  /home/designer/shared/Training/GROTDC/FA_MAXI/FA.sym # of pins=7
** sym_path: /home/designer/shared/Training/GROTDC/FA_MAXI/FA.sym
** sch_path: /home/designer/shared/Training/GROTDC/FA_MAXI/FA.sch
.subckt FA A VDD B S VSS CIN CSAL
*.PININFO B:I A:I CIN:I S:O CSAL:O VDD:B VSS:B
x1 net2 B VDD CIN VSS XOR
x5 S A VDD net2 VSS XOR
x6 VDD net1 net4 net3 VSS OR
x7 VDD CSAL net1 net5 VSS OR
x2 VDD B net4 CIN VSS AND
x3 VDD B net3 A VSS AND
x4 VDD CIN net5 A VSS AND
.ends


* expanding   symbol:  /home/designer/shared/Training/GROTDC/XOR_MAXI/XOR.sym # of pins=5
** sym_path: /home/designer/shared/Training/GROTDC/XOR_MAXI/XOR.sym
** sch_path: /home/designer/shared/Training/GROTDC/XOR_MAXI/XOR.sch
.subckt XOR OUT A VDD B VSS
*.PININFO VDD:B VSS:B A:I B:I OUT:O
x2 VDD net3 net2 B VSS AND
x4 VDD net3 A VSS INV_D1
x5 VDD net1 B VSS INV_D1
x1 VDD OUT net2 net4 VSS OR
x3 VDD A net4 net1 VSS AND
.ends


* expanding   symbol:  /home/designer/shared/Training/GROTDC/OR/OR.sym # of pins=5
** sym_path: /home/designer/shared/Training/GROTDC/OR/OR.sym
** sch_path: /home/designer/shared/Training/GROTDC/OR/OR.sch
.subckt OR VDD VOUT VA VB VSS
*.PININFO VDD:B VSS:B VA:I VB:I VOUT:O
x2 VDD VOUT net1 VSS INV_D1
x1 VDD net1 VA VB VSS NOR
.ends


* expanding   symbol:  /home/designer/shared/Training/GROTDC/AND/AND.sym # of pins=5
** sym_path: /home/designer/shared/Training/GROTDC/AND/AND.sym
** sch_path: /home/designer/shared/Training/GROTDC/AND/AND.sch
.subckt AND VDD VA VOUT VB VSS
*.PININFO VDD:B VSS:B VA:I VB:I VOUT:O
x1 VDD VA net1 VB VSS NAND
x2 VDD VOUT net1 VSS INV_D1
.ends


* expanding   symbol:  /home/designer/shared/Training/GROTDC/INV_D1/INV_D1.sym # of pins=4
** sym_path: /home/designer/shared/Training/GROTDC/INV_D1/INV_D1.sym
** sch_path: /home/designer/shared/Training/GROTDC/INV_D1/INV_D1.sch
.subckt INV_D1 VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
M2 VOUT VIN VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1 m=1
M1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /home/designer/shared/Training/GROTDC/NOR/NOR.sym # of pins=5
** sym_path: /home/designer/shared/Training/GROTDC/NOR/NOR.sym
** sch_path: /home/designer/shared/Training/GROTDC/NOR/NOR.sch
.subckt NOR VDD VOUT VA VB VSS
*.PININFO VDD:B VSS:B VA:I VB:I VOUT:O
M1 VOUT VA VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
M2 VOUT VB VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
M3 VOUT VB net1 VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
M4 net1 VA VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /home/designer/shared/Training/GROTDC/AND/NAND.sym # of pins=5
** sym_path: /home/designer/shared/Training/GROTDC/AND/NAND.sym
** sch_path: /home/designer/shared/Training/GROTDC/AND/NAND.sch
.subckt NAND VDD VA VOUT VB VSS
*.PININFO VDD:B VSS:B VA:I VB:I VOUT:O
M1 net1 VB VSS VSS sg13_lv_nmos w=0.45u l=0.13u ng=1 m=1
M2 VOUT VA net1 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
M3 VOUT VB VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
M4 VOUT VA VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
.ends

